US04686227
A mixture of 3-carboxy-7-chloro-2-methylimidazo[2,1-a]isoquinoline (2.5 g) and thionyl chloride (20 ml) was refluxed for 1 hour and evaporated in vacuo. The residual solid was washed with benzene and dried in a desiccator to give 7-chloro-3-chloroformyl-2-methylimidazo[2,1-a]isoquinoline hydrochloride (2.75 g).

reactant | 3-carboxy-7-chloro-2-methylimidazo[2,1-a]isoquinoline | 2.5 g | C(=O)(O)C1=C(N=C2N1C=CC1=C(C=CC=C21)Cl)C | C13H9ClN2O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 7-chloro-3-chloroformyl-2-methylimidazo[2,1-a]isoquinoline hydrochloride | 2.75 g | Cl.ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3C(=O)Cl)C | InChI=1S/C13H8Cl2N2O.ClH/c1-7-11(12(15)18)17-6-5-8-9(13(17)16-7)3-2-4-10(8)14;/h2-6H,1H3;1H
